US08871792B2
(R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-isopropoxycarbonyloxymethoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid
A mixture of chloromethyl isopropyl carbonate (15.6 mg, 102 μmol) and NaI (15.3 mg, 102 μmol) in acetone (0.7 mL, 10 mmol) was stirred at 65° C. for 1 hour, then added (R)-3-[N-(3′-chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid 2-oxo-2-phenylethyl ester (20.0 mg, 36.4 μmol) that had been dissolved in acetone (0.4 mL, 5 mmol) at room temperature and treated with cesium carbonate (13.0 mg, 40 μmol). The resulting mixture was then heated at 40° C. for 1 hour. DIPEA (0.2 mL, 1 mmol) was added and heating continued for 1 hour. The mixture was cooled to room temperature and concentrated. The residue was partitioned between EtOAc (10.0 mL) and water (2.0 mL). The organic layer was washed with saturated aqueous NaHCO3 (3.0 mL), saturated aqueous NaCl (3.0 mL), dried over Na2SO4, filtered, and concentrated. Zinc 90.8 mg, 1.4 mmol) and AcOH (0.5 mL, 9 mmol) were added and the resulting mixture was stirred at room temperature for 1 hour. The solids were washed with AcOH (1.0 mL) then filtered. The filtrates were combined and purified by reverse phase preparative HPLC to yield the title compound (3.8 mg). MS m/z [M+H]+ calc'd for C25H26ClN3O9, 548.14. found 548.5.

reactant | chloromethyl isopropyl carbonate | 102 μmol, 15.6 mg | C(OCCl)(OC(C)C)=O | C5H9ClO3
reactant | NaI | 102 μmol, 15.3 mg | [Na+].[I-]
reactant | acetone | 10 mmol, 0.7 mL | CC(=O)C | C3H6O
reactant | (R)-3-[N-(3′-chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid 2-oxo-2-phenylethyl ester | 36.4 μmol, 20.0 mg | O=C(COC([C@@H](CN(NC(=O)C1=CC(=NO1)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)O)=O)C1=CC=CC=C1 | C28H24ClN3O7
reactant | acetone | 5 mmol, 0.4 mL | CC(=O)C | C3H6O
reactant | cesium carbonate | 40 μmol, 13.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DIPEA | 1 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | AcOH | 9 mmol, 0.5 mL | CC(=O)O | C2H4O2
catalyst | Zinc | 1.4 mmol, 90.8 mg | [Zn] | Zn
product | (R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-isopropoxycarbonyloxymethoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid | 3.8 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OCOC(=O)OC(C)C)C[C@H](C(=O)O)O | C25H26ClN3O9
